US05547967
3.3 g of 2-methyl-5-(2-fluorophenyl)-pyrazolin-3-one were dissolved in 50 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone. 0.55 g of sodium hydride (as an 80% strength solution in paraffin) was added to this solution and the reaction mixture was stirred at 80° C. for 30 minutes. 3.3 g of 3-(N-benzyl-N-methylamino)-propyl chloride were added to the reaction mixture which was stirred at 80° C. for a further 2 hours. After the reaction mixture had cooled, 10 ml of a 2N solution of hydrochloric acid in isopropanol were added to it, and the mixture was then added dropwise to 2 liters of a 1:3 mixture of acetone and tert-butyl methyl ether. The resulting precipitate was filtered out and dissolved in a mixture of saturated aqueous sodium carbonate solution and ethyl acetate. The organic phase was separated and the aqueous phase was subsequently extracted repeatedly with ethyl acetate. The combined ethyl acetate extracts were dried with sodium sulfate and evaporated. The crude base obtained was purified by chromatography on silica gel. 4.4 g of 3-[3-(N-benzyl-N-methylamino)-propyloxy]-2-methyl-5-(2-fluorophenyl)-pyrazole were obtained.

reactant | 2-methyl-5-(2-fluorophenyl)-pyrazolin-3-one | 3.3 g | CN1NC(CC1=O)C1=C(C=CC=C1)F | C10H11FN2O
reactant | sodium hydride | 0.55 g | [H-].[Na+]
reactant | 3-(N-benzyl-N-methylamino)-propyl chloride | 3.3 g | C(C1=CC=CC=C1)N(C)CCCCl | C11H16ClN
reactant | hydrochloric acid | Cl | ClH
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone | 50 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | acetone | CC(=O)C | C3H6O
product | 3-[3-(N-benzyl-N-methylamino)-propyloxy]-2-methyl-5-(2-fluorophenyl)-pyrazole | 4.4 g | C(C1=CC=CC=C1)N(C)CCCOC=1N(N=C(C1)C1=C(C=CC=C1)F)C | C21H24FN3O
